US04530714
A. N-(Dichlorothiophosphinyl)pyrrolidine
A solution of 43.4 mL (0.52 mol) of pyrrolidine in 50 mL of ether was added dropwise to a stirred solution of 116 mL (1.04 mol) of thiophosphoryl chloride in 200 mL of ether at 0° C. (ice bath) under an argon atmosphere. After the addition was completed, the resultant slurry was slowly warmed to room temperature overnight. A trace of pyrrolidinium hydrochloride was removed by filtration and the filtrate was concentrated under vacuum to provide 84.5 g of a clear oil. A portion of this oil (40 g) was distilled at 80° C. (0.25 mm) to provide 18.1 g of the desired dichloride as a clear oil.

reactant | pyrrolidine | 0.52 mol, 43.4 mL | N1CCCC1 | C4H9N
reactant | thiophosphoryl chloride | 1.04 mol, 116 mL | P(=S)(Cl)(Cl)Cl | Cl3PS
solvent | ether | 50 mL | CCOCC | C4H10O
solvent | ether | 200 mL | CCOCC | C4H10O
product | N-(Dichlorothiophosphinyl)pyrrolidine | 84.5 g | ClP(=S)(N1CCCC1)Cl | C4H8Cl2NPS
